US08138345B2
Preparation of {3-[3-(2-{Benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]amino}ethyl)phenylcarbamoyl]-propyl}methylcarbamic Acid tert-Butyl Ester
To a stirred solution of 4-(tert-butoxycarbonylmethylamino)butyric acid (72.0 mg, 0.331 mmol); 5-[(R)-2-{[2-(3-aminophenyl)ethyl]benzylamino}-1-(tert-butyl-dimethylsilanyloxy)ethyl]-8-benzyloxy-1H-quinolin-2-one (210 mg, 0.331 mmol); 2,6-lutidine (46.5 μL, 0.398 mmol); and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (69.8 mg, 0.364 mmol) in DMF (3 mL) at room temperature was added a solution of 1-hydroxy-7-azabenzotriazole in DMF (0.5 M, 0.729 mL, 0.364 mmol). The resulting mixture was stirred at room temperature overnight. LC-MS (Method 2-90) showed product was present (Rt 4.56 min; m/z 833.6 [M+H]+). Water was added and this mixture was diluted with aqueous 10% lithium chloride solution and DCM. The layers were separated and the organic layer was washed with aqueous 10% lithium chloride solution (2×), dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was further concentrated under high vacuum to give the title compound (containing a minor amount of DMF), which was used in the next reaction without further purification.

reactant | 4-(tert-butoxycarbonylmethylamino)butyric acid | 0.331 mmol, 72.0 mg | C(C)(C)(C)OC(=O)CNCCCC(=O)O | C10H19NO4
reactant | 5-[(R)-2-{[2-(3-aminophenyl)ethyl]benzylamino}-1-(tert-butyl-dimethylsilanyloxy)ethyl]-8-benzyloxy-1H-quinolin-2-one | 0.331 mmol, 210 mg | NC=1C=C(C=CC1)CCN(C[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C39H47N3O3Si
reactant | 2,6-lutidine | 0.398 mmol, 46.5 μL | N1=C(C=CC=C1C)C | C7H9N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.364 mmol, 69.8 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | ON1N=NC2=C1N=CC=C2 | C5H4N4O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | lithium chloride | [Cl-].[Li+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.364 mmol, 0.5 M, 0.729 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | {3-[3-(2-{Benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]amino}ethyl)phenylcarbamoyl]-propyl}methylcarbamic Acid tert-Butyl Ester | C(C)(C)(C)OC(N(C)CCCC(NC1=CC(=CC=C1)CCN(C[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O)=O | C49H64N4O6Si
